US05872118
To a hot (95° C.) solution prepared from sodium hydroxide (322 g, 8.1 mol) and deionized water (322 ml) was added a mixture of 2,4-diacetyl-3-(3,5-difluorophenyl)-5-hydroxy-5-methyl-1-cyclohexanone (43 g, 0. 112 mol) in ethanol (322 ml) with rapid stirring. The resulting mixture was refluxed for 4 hrs using an oil bath at 140° C. The ethanol was removed by spin evaporation in vacuo and the resulting slurry was cooled with an ice bath, and concentrated hydrochloric acid (12N) was added to adjust the pH to approximately 1. The precipitate was dissolved by the addition of water, and this aqueous solution was extracted with ethyl acetate (total volume 1500 ml). The ethyl acetate extracts were combined, washed with water, dried with MgSO4, and the volatiles were removed by spin evaporation in vacuo. Recrystallization of the residue from dichloromethane and hexanes gave 9.10 g (33%) of 3-(3,5-difluorophenyl)glutaric acid: m.p., 170°-172° C.;

reactant | sodium hydroxide | 8.1 mol, 322 g | [OH-].[Na+]
reactant | water | 322 ml | O | H2O
reactant | 2,4-diacetyl-3-(3,5-difluorophenyl)-5-hydroxy-5-methyl-1-cyclohexanone | 112 mol, 43 g | C(C)(=O)C1C(CC(C(C1C1=CC(=CC(=C1)F)F)C(C)=O)(C)O)=O | C17H18F2O4
solvent | ethanol | 322 ml | C(C)O | C2H6O
product | 3-(3,5-difluorophenyl)glutaric acid | 9.10 g, 33% | FC=1C=C(C=C(C1)F)C(CC(=O)O)CC(=O)O | C11H10F2O4
